US07335658B2
ACETIC ACID 1,1-DIMETHYL-3-({6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]-PYRIDAZINE-3-CARBONYL}AMINO)PROPYL ESTER
Following the procedure of Example 19, making variations only as required to use 6-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl]pyridazine-3-carboxylic acid (3-hydroxy-3-methylbutyl)amide in place of 6-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl]pyridazine-3-carboxylic acid (2-hydroxy-2-phenylethyl)amide to react with acetic anhydride, the title compound was obtained as a white powder (80% yield). 1H NMR (500 MHz, CDCl3) δ 8.05, 8.01, 7.75, 7.65, 7.57, 7.37, 6.99, 4.06, 3.88, 3.81-3.67, 3.58, 3.36, 2.06, 2.01, 1.52. MS (ES+) m/z 508 (M+1).

reactant | 6-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl]pyridazine-3-carboxylic acid (3-hydroxy-3-methylbutyl)amide | OC(CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O)(C)C | C22H26F3N5O3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | ACETIC ACID 1,1-DIMETHYL-3-({6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]-PYRIDAZINE-3-CARBONYL}AMINO)PROPYL ESTER | CC(CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O)(C)OC(C)=O | C24H28F3N5O4
